US06348474B1
5-Chloro-2,7-dimethyl-1H-imidazo[4,5-b]pyridine
A mixture of 2,7-dimethyl-1H-imidazo[4,5-b]pyridine-4-oxide (4.45 g) in chloroform (4.5 ml) and phosphorous oxychloride (25.4 ml) was stirred at 80° C. for 3 hr and concentrated to dryness under reduced pressure. The residue was poured to ice (75 g), and which was neutralized with aqueous ammonia under ice-cooling. The mixture was stirred at room temperature for 30 min and the precipitated solid was washed with water to give the objective compound (3.66 g) as a gray powder.

reactant | 2,7-dimethyl-1H-imidazo[4,5-b]pyridine-4-oxide | 4.45 g | CC=1NC=2C(=[N+](C=CC2C)[O-])N1 | C8H9N3O
reactant | chloroform | 4.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorous oxychloride | 25.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-2,7-dimethyl-1H-imidazo[4,5-b]pyridine | 3.66 g | ClC1=CC(=C2C(=N1)N=C(N2)C)C | C8H8ClN3
